US04791113
Preparation of [1aS-(1aα,8β,8aα,8bα)]- 8- {[(aminocarbonyl)oxy]methyl}-4,7-dihydroxy-1,1a,2,8,8a,8b-hexahydro-6-[(tert-butoxycarbonyl)azo]-8a-methoxy-5-methyl-azirino[2',3':3,4]pyrrolo[1,2-a]indole
In a similar manner to that described in Example 17, mitomycin A (250 mg), tert-butoxycarbonylhydrazine (284 mg) and potassium carbonate (150 mg) are treated to obtain the desired product (138 mg) with a yield of 42.7%.

reactant | mitomycin A | 250 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | tert-butoxycarbonylhydrazine | 284 mg | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
product | 8- {[(aminocarbonyl)oxy]methyl}-4,7-dihydroxy-1,1a,2,8,8a,8b-hexahydro-6-[(tert-butoxycarbonyl)azo]-8a-methoxy-5-methyl-azirino[2',3':3,4]pyrrolo[1,2-a]indole | 138 mg, yield of 42.7% | NC(=O)OCC1C2(N(C=3C(=C(C(=C(C13)O)N=NC(=O)OC(C)(C)C)C)O)CC1C2N1)OC | C20H27N5O7
